Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2](#[C:4][C:5]([H:6])[H:7])[C:12]([H:13])([H:14])[H:15].[H:1][C:3][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([C:3](=[C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.77375221387
[H:1][O:2][C:3][C:4]#[C:5][C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-4.3415067175
[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])=[C:10]([H:11])[H:12]>>[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.55763931616
[C:1][C:2][O:3].[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10]>>[C:1]#[C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-1.67680937707
[C:11]([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-4.85944632
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12][C:13]([H:14])([H:15])[H:16],-3.82707825847
[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.00423014244
[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3][H:4].[H:5],3.97527175085
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[H:4].[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],3.69932757565
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-2.93534350389
[C:3]([H:4])#[C:5][H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([C:3]([H:4])=[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-1.13212473213
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:1].[O:2]=[C:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],1.02819561677
[C:7]=[C:8]([H:9])[H:10].[O:1][O:2][C:3]([H:4])=[C:5][H:6]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-5.48143845357
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][O:8].[H:9],3.72762455868
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C:5][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:6],4.15273694191
[C:4]#[C:5][O:6][H:7].[H:1][C:2]#[C:3][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]=[C:3]([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.47127132231
[C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3]([H:4])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-3.8485211428400015
[C:1][C:2][O:3].[C:4]([H:5])([H:6])[O:7][C:8][H:9]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8][H:9],-1.05329456965
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[C:12]([H:13])([H:14])[H:15],5.00160945194
[H:1][C:2][O:3][C:4]([H:5])[C:6]#[C:8][C:9]([H:10])([H:11])[H:12].[H:7]>>[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-1.83791044584
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:9](\[H:10])[O:11][H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[O:11][H:12],-2.14623080787
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][C:4]([H:5])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],4.55120134871
[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7][H:8].[H:9]>>[C:1]#[C:2][O:3][C:4]([O:5][H:6])=[C:7]([H:8])[H:9],-5.24019783731
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8],3.16012395671
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[H:9]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.5268260212
[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8]([H:9])[H:10]>>[H:10].[H:1][O:2][C:3][C:4]([C:5][O:6][H:7])=[C:8][H:9],4.98171542633
[O:1]=[C:2]=[C:3]([H:4])[C:5]([H:6])=[C:7][H:8]>>[C:5]([H:6])#[C:7][H:8].[O:1][C:2]#[C:3][H:4],1.81960924056
[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1],4.44183085121
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7],1.92038851232
